US07875701B2
(b) 17-Azido-3,6,9,12,15-pentaoxaheptadecanamine
To a vigorously stirred suspension of 1,17-diazido-3,6,9,12,15-pentaoxaheptadecane (25 g, 75 mmol) in 5% HCl (200 mL) was added a solution of triphenylphosphine (19.2 g, 73 mmol) in ether (150 mL) over 3 hrs at room temperature. The reaction mixture was stirred for additional 24 hrs. The phases were separated and the aqueous phase was extracted with dichloromethane (3×40 mL). The aqueous phase was cooled in an ice/water bath and the pH was adjusted to 12 by addition of solid potassium hydroxide. The aqueous phase was concentrated and the product was taken up in dichloromethane (150 mL). The organic phase was dried (Na2SO4) and concentrated giving of 22 g (95%) of a yellow oil. The product was identified by electrospray mass spectrometry (ESI-MS) (MH+ calculated: 307.19; found 307.4). The crude oil was used in the nest step without further purification.

reactant | 1,17-diazido-3,6,9,12,15-pentaoxaheptadecane | 75 mmol, 25 g | N(=[N+]=[N-])CCOCCOCCOCCOCCOCCN=[N+]=[N-] | C12H24N6O5
reactant | triphenylphosphine | 73 mmol, 19.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | HCl | 200 mL | Cl | ClH
solvent | ether | 150 mL | CCOCC | C4H10O
product | 17-Azido-3,6,9,12,15-pentaoxaheptadecanamine | 22 g, 95% | N(=[N+]=[N-])CCOCCOCCOCCOCCOCCN | C12H26N4O5
